US06974831B2
C. Preparation of 1-benzyl-2-carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole
A suspension of 60% sodium hydride in mineral oil (4.08 g, 0.102 mol) was washed once with hexane and suspended in dry N,N-dimethylformamide (100 mL). 2-Carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole (25.4 g, 92.7 mmol) was added in several portions resulting in gas evolution. Benzyl bromide (12.1 mL, 102 mmol) was added in two portions over 30 min and the resulting mixture stirred for 18 h. Additional portions of 60% sodium hydride suspension (1.30 g) and benzyl bromide (2 mL) were added and the mixture stirred for 27 h. The mixture was poured into water (2 L) and the resulting solution extracted three times with ethyl acetate. The combined extracts were Washed three times with water, dried (sodium sulfate), filtered, and concentrated in vacuo. Chromatography (silica gel) provided 12.6 g (37%) of the title compound as a yellow solid: mp 86-88° C. 1H NMR (CDCl3) δ 7.51 (s, 1H), 7.20 (m, 3H), 6.84 (d, J=6.6 Hz, 2H), 6.24 (s, 1H), 6.12 (s, 2H), 4.23 (q, J=7.0 Hz, 2H), 3.93 (s, 3H), 2.96 (m, 2H), 2.85 (m, 2H), 1.71 (m, 4H), 1.30 (t, J=7.0 Hz, 3H); MS ES+ m/e 364 (p+1); IR (CHCl3, cm−1) 2937, 1701, 1502.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-Carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 92.7 mmol, 25.4 g | C(=O)(OCC)C=1NC2=C3C(=CC(=C2C1)OC)CCCC3 | C16H19NO3
reactant | Benzyl bromide | 102 mmol, 12.1 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium hydride | 1.30 g | [H-].[Na+]
reactant | benzyl bromide | 2 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 2 L | O | H2O
product | 1-benzyl-2-carboethoxy-4-methoxy-6,7,8,9-tetrahydro-1H-benz[g]indole | 12.6 g, 37% | C(C1=CC=CC=C1)N1C(=CC2=C(C=C3C(=C12)CCCC3)OC)C(=O)OCC | C23H25NO3
